US08293763B2
Step 6: 8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide
8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide (149 mg, 0.36 mmol) was dissolved in methanol (2 mL) and treated with 1M HCl (1.5 mL). The reaction mixture was stirred at room temperature for 2 hours. The solvents were removed in vacuo and the residue was purified by preparative HPLC (Gemini 5 micron C18 250×21.20 mm column, 0.1% formic acid, gradient acetonitrile/water, 5 to 98%, ramp time 20 minutes) to afford the title compound as a yellow solid (16 mg, 11%). LCMS (method A): RT=7.40 min, [M+H]+=385. 1H NMR (DMSO-d6):11.59 (1H, s), 10.60 (1H, s), 8.32 (1H, s), 7.82 (1H, d, J=7.7 Hz), 7.24 (1H, d, J=8.5 Hz), 7.15 (1H, d, J=11.2 Hz), 7.07 (1H, d, J=8.11 Hz), 6.79 (1H, d, J=7.3 Hz), 6.33 (1H, s), 4.73 (1H, s), 3.69 (2H, t, J=4.8 Hz), 3.61 (2H, t, J=5.0 Hz), 3.57 (1H, d, J=8.8 Hz), 2.36 (2H, m), 2.12 (2H, m), 1.96 (1H, m), 1.83 (1H, m).

reactant | 8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.36 mmol, 149 mg | C(=C)OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CCC2)F | C22H23FN4O3
reactant | HCl | 1M, 1.5 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 8-(4-Cyclobutyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide | 16 mg, 11% | OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CCC2)F | C20H21FN4O3
